US08030322B2
Preparation 40: 6-chloro-2,3-dihydrospiro[indene-1,3′-pyrrolidine]-2′,5′-dione (Prep40)
The mixture of 1-(cyanomethyl)-6-chloro-2,3-dihydro-1H-indene-1-carbonitrile (Prep. 39, 250 mg, 1.16 mmol), and AcOH (2.5 ml), H2SO4 (78%, 0.18 ml) was heated to 125° C. The mixture was stirred overnight at 125° C.

reactant | 1-(cyanomethyl)-6-chloro-2,3-dihydro-1H-indene-1-carbonitrile | 1.16 mmol, 250 mg | C(#N)CC1(CCC2=CC=C(C=C12)Cl)C#N | C12H9ClN2
reactant | H2SO4 | 0.18 ml | OS(=O)(=O)O | H2O4S
reactant | AcOH | 2.5 ml | CC(=O)O | C2H4O2
product | 6-chloro-2,3-dihydrospiro[indene-1,3′-pyrrolidine]-2′,5′-dione | ClC1=CC=C2CCC3(C(NC(C3)=O)=O)C2=C1 | C12H10ClNO2
